US04710468
The procedure of example 375 was repeated using n-propyl-4-chloroacetoacetate as the substrate to afford n-propyl-4-chloro-3(R)-hydroxybutyrate, [α]D23 +21.5° (c, 5.0, CHCl3).

reactant | n-propyl-4-chloroacetoacetate | C(CC)OC(CC(=O)CCl)=O | C7H11ClO3
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | n-propyl-4-chloro-3(R)-hydroxybutyrate | C(CC)OC(C[C@H](CCl)O)=O | C7H13ClO3
